US09233946B2
5-(Phenylsulfonyl)-N-[3-(1H-tetrazol-5-yl)phenyl]thiophene-2-sulfonamide
The product was prepared according to General Procedure 1, described in Example 1, with 5-benzenesulfonyl-thiophene-2-sulfonyl chloride (17.7 mg, 0.055 mmol) and 5-(3-aminophenyl)tetrazole (8.0 mg, 0.050 mmol). The title compound was obtained in 40% yield (8.9 mg). MS (ESI+) calcd mass for C17H13N5O4S3 447.012966, found 447.013676.

reactant | 5-benzenesulfonyl-thiophene-2-sulfonyl chloride | 0.055 mmol, 17.7 mg | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(S1)S(=O)(=O)Cl | C10H7ClO4S3
reactant | 5-(3-aminophenyl)tetrazole | 0.050 mmol, 8.0 mg | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
product | 5-(Phenylsulfonyl)-N-[3-(1H-tetrazol-5-yl)phenyl]thiophene-2-sulfonamide | 40% yield | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(S1)S(=O)(=O)NC1=CC(=CC=C1)C1=NN=NN1 | C17H13N5O4S3
